US08912330B2
N-benzyl-6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1H-pyrrolo[3,2-b]pyridin-1-amine:
A solution of tert-butyl 4-{4-[1-(benzylamino)-1H-pyrrolo[3,2-b]pyridin-6-yl]-1H-pyrazol-1-yl}piperidine-1-carboxylate (25 mg, 0.053 mmol) in MeOH (0.3 mL) was treated with HCl (4.0M solution in dioxane, 1.5 mL) at room temperature for 30 min. Solvents were evaporated and the residue was diluted with aq. NaHCO3, extracted with ethyl acetate. The organic layer was dried, filtered and evaporated to give a white solid (10 mg, yield 51%).

reactant | tert-butyl 4-{4-[1-(benzylamino)-1H-pyrrolo[3,2-b]pyridin-6-yl]-1H-pyrazol-1-yl}piperidine-1-carboxylate | 0.053 mmol, 25 mg | C(C1=CC=CC=C1)NN1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C27H32N6O2
reactant | HCl | 4.0M, 1.5 mL | Cl | ClH
solvent | MeOH | 0.3 mL | CO | CH4O
product | N-benzyl-6-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1H-pyrrolo[3,2-b]pyridin-1-amine | 10 mg, yield 51% | C(C1=CC=CC=C1)NN1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCNCC2 | C22H24N6
